US09399623B2
6-Chloro-2-(3-methylamino-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide (17)
The title compound was synthesized according to the procedure described in example 1 using 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide, and methyl-pyrrolidin-3-yl-amine. 1H NMR (400 MHz, DMSO-d6): δ 8.73-8.76 (m, 1H), 7.70-7.73 (m, 1H), 7.48-7.54 (m, 2H), 6.94-6.96 (m, 1H), 3.53-3.56 (m, 3H), 3.22-3.29 (m, 4H), 2.31-2.34 (m, 5H), 2.01-2.13 (m, 3H), 1.73-1.86 (m, 6H), 1.23-1.32 (m, 2H). m/z: 458.2 [M+H]+

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O
reactant | methyl-pyrrolidin-3-yl-amine | CNC1CNCC1 | C5H12N2
product | 6-Chloro-2-(3-methylamino-pyrrolidin-1-yl)-quinoline-5-carboxylic acid (4,4-difluoro-cyclohexylmethyl)-amide | FC1(CCC(CC1)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)N1CC(CC1)NC)F | C22H27ClF2N4O
